US08350046B2
Synthesis of N-(3′,4′-dichloro-5-fluorobiphenyl-2-yl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide
5.6 g (0.029 mol, 98% pure) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride were dissolved at 25° C. in 10.4 g of toluene. The solution was evacuated to 400 mbar and heated to 85° C. Subsequently, within 5 minutes, 7.8 g (0.030 mol, approx. 92% pure) of 3′,4′-dichloro-5-fluorobiphenyl-2-ylamine, dissolved in 28 g of toluene, were metered in and the reaction mixture was stirred for a further 1 hour. After venting and cooling to 25° C. overnight, the mixture was cooled further to 0° C., and the solids were filtered off, washed with cold toluene and dried at 80° C. under reduced pressure. The yield (without further processing of the mother liquor) was 8.1 g (71%).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.029 mol, 5.6 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 3′,4′-dichloro-5-fluorobiphenyl-2-ylamine | 0.030 mol, 7.8 g | ClC=1C=C(C=CC1Cl)C1=C(C=CC(=C1)F)N | C12H8Cl2FN
solvent | toluene | 10.4 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 28 g | C1(=CC=CC=C1)C | C7H8
product | N-(3′,4′-dichloro-5-fluorobiphenyl-2-yl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide | ClC=1C=C(C=CC1Cl)C1=C(C=CC(=C1)F)NC(=O)C=1C(=NN(C1)C)C(F)F | C18H12Cl2F3N3O
